US07173040B2
A mixture of (±)-1-methylethyl 4-[[4(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]benzoate (described in Example B12) (0.00369 mol) and LiOH. H2O (0.00369 mol) in THF (15 ml) and H2O (8 ml) was stirred at room temperature for 72 hours, poured out into H2O and washed with EtOAc. The aqueous layer was evaporated, taken up in 2-propanone/H2O and acidified with HCl/diethyl ether. The aqueous layer was evaporated. A part of the residue (0.3 g) was taken up in EtOH/diethyl ether. The precipitate was filtered off and dried, yielding 0.2 g (71%) of (±)-4-[[4-(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]benzoic acid, mp. >260° C.

reactant | (±)-1-methylethyl 4-[[4(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]benzoate | 0.00369 mol | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C1=CC=C(C(=O)OC(C)C)C=C1)(C1=CN=CN1C)O)C)=O | C31H28ClN3O4
reactant | LiOH | [Li+].[OH-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | H2O | 8 ml | O | H2O
solvent | H2O | 0.00369 mol | O | H2O
product | (±)-4-[[4-(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]benzoic acid | 0.2 g, 71% | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C1=CC=C(C(=O)O)C=C1)(C1=CN=CN1C)O)C)=O | C28H22ClN3O4
